US07135568B2
3-bromo-7-(3,4-dimethoxyphenyl)-2-phenyl-5-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride
To form the hydrochloride 139 mg of 3-bromo-7-(3,4-dimethoxyphenyl)-2-phenyl-5-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine were dissolved in 1.1 ml of methyl ethyl ketone and then 6 μl of H2O and 7 μl of TMSCl were added. After some time a solid precipitated out. After suction filtration and washing with ether, yellow crystals were obtained that were dried under a vacuum.

reactant | hydrochloride | 139 mg | Cl | ClH
reactant | 3-bromo-7-(3,4-dimethoxyphenyl)-2-phenyl-5-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | BrC=1C(=NN2C1NC(CC2C2=CC(=C(C=C2)OC)OC)C2=NC=CC=C2)C2=CC=CC=C2 | C25H23BrN4O2
reactant | H2O | 6 μl | O | H2O
reactant | TMSCl | 7 μl | C[Si](C)(C)Cl | C3H9ClSi
solvent | methyl ethyl ketone | 1.1 ml | C(C)C(=O)C | C4H8O
product | 3-bromo-7-(3,4-dimethoxyphenyl)-2-phenyl-5-pyridin-2-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine dihydrochloride | Cl.Cl.BrC=1C(=NN2C1NC(CC2C2=CC(=C(C=C2)OC)OC)C2=NC=CC=C2)C2=CC=CC=C2 | InChI=1S/C25H23BrN4O2.2ClH/c1-31-21-12-11-17(14-22(21)32-2)20-15-19(18-10-6-7-13-27-18)28-25-23(26)24(29-30(20)25)16-8-4-3-5-9-16;;/h3-14,19-20,28H,15H2,1-2H3;2*1H
